US04069321
1,2-Epoxy-25-fluorocholestadien-3-one (0.01 mole) prepared according to 3A above is dissolved in 100 ml. of dry tetrahydrofuran under a nitrogen blanket at 0° C. and fresh lithium aluminum hydride (0.005 mole) is slowly added over 10 minutes with stirring. The mixture is stirred for 1.0 hour and 1.0 ml. of ethyl acetate is added to destroy the excess lithium aluminum hydride. Concentrated aqueous ammonium chloride (20 ml.) is added to the reaction mixture and the mixture is stirred for 5 minutes. Diethyl ether (200 ml.) is added to the reaction mixture, the mixture is well shaken and the organic layer separated. The organic layer is washed with water, dried with magnesium sulfate and the solvent is evaporated to give crude 25-fluoro-4,6-cholestadiene-1α,3β-diol. 25-Fluoro-4,6-cholestadiene-1α,3β-diol can be purified by chromatographing the crude product on a silica gel column using a solvent of petroleum ether and diethyl ether.

reactant | 1,2-Epoxy-25-fluorocholestadien-3-one | 0.01 mole | O1C2C1C(CC1CC[C@H]3[C@@H]4CC[C@H](C(=CC=CC(C)(C)F)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H39FO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 0.005 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 25-fluoro-4,6-cholestadiene-1α,3β-diol | FC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3C=CC4=C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H43FO2
